US04322519
A 500-ml four-necked flask equipped with a stirrer, a thermometer, a dropping funnel and a Liebig condenser is charged with 28.2 g (0.1 mole) of monobutyltin trichloride and 200 ml of deionized water. The contents are warmed to 20°-30° C., and 32 g of a 25% aqueous solution of sodium hydroxide (0.2 mole) is gradually added dropwise. White crystals precipitate out. After the addition, the mixture is stirred at 20°-30° C. for 2 hours. Then, 100 ml of hexane is added, followed by gradual dropwise addition at 20°-30° C. of a separately prepared reaction mixture of 14.4 g (0.1 mole) of 2-ethylhexanoic acid and 4 g (0.1 mole) of sodium hydroxide in 100 ml of water. Care should be taken during the dropping that the flask contents are not made alkaline. After the addition, the mixture is stirred for an hour. The hexane layer is separated and concentrated to give 30 g of monobutyltin mono(2-ethylhexanoate) as a white filmy substance.

reactant | monobutyltin trichloride | 0.1 mole, 28.2 g | C(CCC)[Sn](Cl)(Cl)Cl
reactant | sodium hydroxide | 0.2 mole | [OH-].[Na+]
reactant | 2-ethylhexanoic acid | 0.1 mole, 14.4 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | sodium hydroxide | 0.1 mole, 4 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | monobutyltin mono(2-ethylhexanoate) | 30 g | C(C)C(C(=O)[O-])CCCC.C(CCC)[Sn+] | InChI=1S/C8H16O2.C4H9.Sn/c1-3-5-6-7(4-2)8(9)10;1-3-4-2;/h7H,3-6H2,1-2H3,(H,9,10);1,3-4H2,2H3;/q;;+1/p-1
